US06300316B1
N-(N′-Boc-Glycyl)-4-methoxy-1,2,3,4-tetrahydroisoquinoline
To a solution of 4-methoxy-1,2,3,4-tetrahydroisoquinoline (5.88 g, 36 mmol) in 100 mL of CH2Cl2 were added Boc-glycine (12.6 g, 72 mmol), 4-dimethylaminopyridine (8.80 g, 72 mmol), and dicyclohexyl carbodiimide (14.9 g, 72 mmol). After stirring overnight, the resulting precipitate was filtered and the filtrate was evaporated. A SiO2 chromatography (EtOAc:hexane=1:1) of the residue gave 4.9 g (43%) of the title compound.

reactant | 4-methoxy-1,2,3,4-tetrahydroisoquinoline | 36 mmol, 5.88 g | COC1CNCC2=CC=CC=C12 | C10H13NO
reactant | Boc-glycine | 72 mmol, 12.6 g | C(=O)(OC(C)(C)C)NCC(=O)O | C7H13NO4
reactant | dicyclohexyl carbodiimide | 72 mmol, 14.9 g | C1(CCCCC1)N=C=NC1CCCCC1 | C13H22N2
solvent | CH2Cl2 | 100 mL | C(Cl)Cl | CH2Cl2
catalyst | 4-dimethylaminopyridine | 72 mmol, 8.80 g | CN(C1=CC=NC=C1)C | C7H10N2
product | N-(N′-Boc-Glycyl)-4-methoxy-1,2,3,4-tetrahydroisoquinoline | 4.9 g, 43% | C(=O)(OC(C)(C)C)NCC(=O)N1CC2=CC=CC=C2C(C1)OC | C17H24N2O4
